US09102688B2
General Procedure 22: 4,7-Dichloro-8-nitro-quinoline (Intermediate 68)
Fuming nitric acid (8 ml) and concentrated sulfuric acid (16 ml) were combined cautiously at −10° C. 4,7-dichloroquinoline (5 g, 25 mmol) was added portionwise at −10° C. and after complete addition the mixture was allowed to warm to room temperature and stirring continued for 18 h. The reaction mixture was poured onto ice and the resulting solid removed by filtration washed with water (100 ml) to give the title compound (5.7 g, 94%).

reactant | nitric acid | 8 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 16 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4,7-dichloroquinoline | 25 mmol, 5 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
product | 4,7-Dichloro-8-nitro-quinoline | 5.7 g, 94% | ClC1=CC=NC2=C(C(=CC=C12)Cl)[N+](=O)[O-] | C9H4Cl2N2O2
